US04640915
A mixture of 4-nitrobenzyl (5R, 6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-(5-methyl-4H-1,2,4-triazol-3-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (50 mg) and 5% palladium on activated carbon (50 mg) in 0.048M aqueous dipotassium hydrogen phosphate (4.85 ml), ethanol (0.5 ml), and dioxane (6.0 ml) was shaken for 2 hours under a hydrogen atmosphere (40 psi) at ambient temperature. After the catalyst was filtered off, the filtrate was concentrated to half of the original volume. The aqueous concentrate was washed three times with diethyl ether and evaporated in vacuo. The residue was chromatographed on nonionic adsorption resin "Diaion CHP-20P", eluting with water (100 ml) and 5% aqueous isopropyl alcohol (100 ml). The fractions, whose UV spectra showed λmax 292 nm, were combined and lyophilized to give potassium (5R, 6R)-6-(1-hydroxy-1-methylethyl)-3-(5-methyl- 4H-1,2,4-triazol-3-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate (13.2 mg) as a yellow powder.

reactant | 4-nitrobenzyl (5R, 6R)-6-[1-methyl-1-(4-nitrobenzyloxycarbonyloxy)ethyl]-3-(5-methyl-4H-1,2,4-triazol-3-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 50 mg | CC(C)(OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC1=NN=C(N1)C | C28H26N6O10S
reactant | dioxane | 6.0 ml | O1CCOCC1 | C4H8O2
reactant | dipotassium hydrogen phosphate | 0.048M, 4.85 ml | P(=O)(O)([O-])[O-].[K+].[K+]
catalyst | palladium on activated carbon | 50 mg | [Pd] | Pd
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | potassium (5R, 6R)-6-(1-hydroxy-1-methylethyl)-3-(5-methyl- 4H-1,2,4-triazol-3-ylthio)-7-oxo-1-azabicyclo[3.2.0]hept-2-ene-2-carboxylate | 13.2 mg | OC(C)(C)[C@H]1[C@H]2CC(=C(N2C1=O)C(=O)[O-])SC1=NN=C(N1)C.[K+] | InChI=1S/C13H16N4O4S.K/c1-5-14-12(16-15-5)22-7-4-6-8(13(2,3)21)10(18)17(6)9(7)11(19)20;/h6,8,21H,4H2,1-3H3,(H,19,20)(H,14,15,16);/q;+1/p-1/t6-,8+;/m1./s1
